US06586617B1
Synthesis of 4′-Chloro-4-ethyl-N-isopropyl-2′-nitrobenzenesulfonanilide (Compound No. 328)
To a suspension of sodium hydride (60%, 0.12 g (3.00 mmol)) in DMF (7.0 ml), 4′-chloro-4-ethyl-2′-nitrobenzenesulfonanilide (1.00 g (2.93 mmol)) was added with stirring at room temperature. To the resulting mixture, after 15 minutes' stirring at room temperature, isopropyl iodide (0.70 ml (7.01 mmol)) was added dropwise and heated at 130° C. for 2 hours with stirring. After being allowed to cool to room temperature, water was added to the reaction mixture and the resulting mixture was extracted with diethyl ether. The extract was washed with 1% aqueous solution of sodium hydroxide and a saturated aqueous solution of sodium chloride, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was subjected to silica gel column chromatography with ethyl acetate-hexane (1:3) as eluent to give 0.41 g (37%) of the title compound as pale red crystals.

reactant | sodium hydride | 3.00 mmol, 0.12 g | [H-].[Na+]
reactant | 4′-chloro-4-ethyl-2′-nitrobenzenesulfonanilide | 2.93 mmol, 1.00 g | ClC1=CC(=C(NS(=O)(=O)C2=CC=C(C=C2)CC)C=C1)[N+](=O)[O-] | C14H13ClN2O4S
reactant | isopropyl iodide | 7.01 mmol, 0.70 ml | C(C)(C)I | C3H7I
reactant | water | O | H2O
solvent | DMF | 7.0 ml | CN(C)C=O | C3H7NO
product | 4′-Chloro-4-ethyl-N-isopropyl-2′-nitrobenzenesulfonanilide | 0.41 g, 37% | ClC1=CC(=C(N(S(=O)(=O)C2=CC=C(C=C2)CC)C(C)C)C=C1)[N+](=O)[O-] | C17H19ClN2O4S
